US07696216B2
A. Synthesis of 2-(thiophen-3-yloxy)-ethanol
To a solution of 1.0 g (4.76 mmol) 3-iodothiophene in 5 ml ethylene glycol is added 109 mg (1.71 mmol) copper powder, 114 mg (0.714 mmol) copper(II)sulphate and 151 mg (19.0 mmol) lithium hydride. The reaction mixture is heated overnight in a sealed flask at 100° C. The reaction mixture is filtered through Celite and evaporated. The resulting oil is then filtered through a 50 g silica pad and eluted with ethyl acetate/hexanes (7:3) to give after evaporation 750 mg of an orange liquid, which is used without purification directly in the next reaction.

reactant | 3-iodothiophene | 4.76 mmol, 1.0 g | IC1=CSC=C1 | C4H3IS
reactant | lithium hydride | 19.0 mmol, 151 mg | [H-].[Li+]
reactant | ethylene glycol | 5 ml | C(CO)O | C2H6O2
catalyst | copper | 1.71 mmol, 109 mg | [Cu] | Cu
catalyst | copper(II)sulphate | 0.714 mmol, 114 mg | S(=O)(=O)([O-])[O-].[Cu+2]
product | 2-(thiophen-3-yloxy)-ethanol | S1C=C(C=C1)OCCO | C6H8O2S
